US06121285
1-[1-Benzyloxycarbonyl-4-(R)-fluoro-3-(S)-pyrrolidinyl]cyclopropanecarboxylic acid
1-Benzyloxycarbonyl-4-(R)-(1-ethoxycarbonylcyclopropyl)-3-(S)-fluoropyrrolidine (3.715 g, 11.08 mmol) was dissolved in ethanol (110 ml), and 10 N sodium hydroxide aqueous solution (11 ml) was added dropwise to the thus prepared solution which was cooled in an ice bath. The reaction solution was stirred at room temperature for 18 hours and then ethanol was evaporated under reduced pressure. The thus obtained residue was mixed with water (50 ml) and washed with dichloromethane (50 ml×2). The thus separated aqueous layer was cooled in an ice bath, acidified by adding dropwise concentrated hydrochloric acid, extracted with diethyl ether (100 ml×5) and then dried over anhydrous magnesium sulfate. After filtration, the filtrate was concentrated under reduced pressure, and the residue was dissolved in benzene (100 ml) and again concentrated under reduced pressure. This azeotropic step with benzene was repeated 3 times to obtain 3.346 g (98.3%) of the title compound as a colorless amorphous substance.

reactant | 1-Benzyloxycarbonyl-4-(R)-(1-ethoxycarbonylcyclopropyl)-3-(S)-fluoropyrrolidine | 11.08 mmol, 3.715 g | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@@H](C1)C1(CC1)C(=O)OCC)F | C18H22FNO4
reactant | sodium hydroxide | 10 N, 11 ml | [OH-].[Na+]
solvent | ethanol | 110 ml | C(C)O | C2H6O
product | 1-[1-Benzyloxycarbonyl-4-(R)-fluoro-3-(S)-pyrrolidinyl]cyclopropanecarboxylic acid | 3.346 g, 98.3% | C(C1=CC=CC=C1)OC(=O)N1C[C@@H]([C@H](C1)F)C1(CC1)C(=O)O | C16H18FNO4
